US07452909B2
2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-ylmethyl]-6-methyl-pyridine
The title compound, MS: m/e=322.4 (M+H30), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2-chloromethyl-6-methyl-pyridine hydrochloride.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-chloromethyl-6-methyl-pyridine hydrochloride | Cl.ClCC1=NC(=CC=C1)C
product | 2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-ylmethyl]-6-methyl-pyridine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)CC1=NC(=CC=C1)C)C | C19H16ClN3
